.options savecurrents

*Resistors
R1 A B 1.04140403815k
R2 B C 2.06425750627k
R3 B E 3.01346586287k
R4 D E 4.09638762559k
R5 E F 3.04195770117k
R6 D G1 2.04936997612k 
R7 G2 H 1.01919058582k

*Voltage Sources
Vaux G1 G2 DC 0
Va A D DC 5.1361224873
Hc E H Vaux 8.19579707039

*Current Sources
Id H F DC 1.03201034448m
Gb F C B E 7.16043663039m

.control

op

print all